US04148904
2-Bromo-4-trichloroacetamidothiazole
4-Amino-2-bromo-thiazole hydrobromide (15.6 g) and trichloroacetyl chloride (14.3 g) were suspended in methylene chloride (100 ml) with stirring and treated dropwise with pyridine (16 ml) over 15 minutes maintaining reaction temperature at 0° C. with an ice bath. After completing the addition, the reaction mixture was stirred at room temperature for 3 hours, then poured onto 20% aqueous sodium acetate (250 ml) and stirred for 30 minutes. The mixture was separated and the organic layer washed with 2N hydrochloric acid, water, sodium carbonate solution and water. The organic layer was dried (MgSO4) and the solvent removed in vacuo and the residue treated with charcoal in hexane and recrystallised from hexane to give the title compound (10.5 g) m.p. 77°-80° C. (Found: C, 19.0; H, 0.7; N, 8.5. C5H2Cl3BrN2OS requires C, 18.5; H, 0.6; N, 8.6%)

reactant | 4-Amino-2-bromo-thiazole hydrobromide | 15.6 g | Br.NC=1N=C(SC1)Br
reactant | trichloroacetyl chloride | 14.3 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium acetate | 250 ml | C(C)(=O)[O-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-Bromo-4-trichloroacetamidothiazole | 10.5 g, 8.6% | BrC=1SC=C(N1)NC(C(Cl)(Cl)Cl)=O | C5H2BrCl3N2OS
